US08026234B2
Compound 90: 4-(9-Cyclohexyl-7-fluoro-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methylazetidin-3-yl)benzamide
The title compound was synthesized from 4-(9-cyclohexyl-7-fluoro-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and 1-methylazetidin-3-amine hydrochloride. The final compound was purified by reverse phase HPLC and basified to give the free base. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.39 (m, 2H) 1.62-2.06 (m, 14H), 2.29 (s, 1H) 2.50 (s, 3H) 3.25 (t, J=6.3 Hz, 2H) 3.47 (s, 3H) 3.80 (t, J=6.6 Hz, 2H) 3.88-4.09 (m, 2H) 4.16 (s, 3H) 4.52-4.77 (m, 1H) 7.70 (d, J=8.3 Hz, 1H) 8.00 (s, 1H). [M+H] calc'd for C27H36FN7O3, 526. found 526.

reactant | 4-(9-cyclohexyl-7-fluoro-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCCC1)N1C2=C(N(C(C(C1)(C)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C23H28FN5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-methylazetidin-3-amine hydrochloride | Cl.CN1CC(C1)N
product | 4-(9-Cyclohexyl-7-fluoro-5,7-dimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methylazetidin-3-yl)benzamide | C1(CCCCC1)N1C2=C(N(C(C(C1)(C)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CN(C1)C)C=C2)OC | C27H36FN7O3
